US04602014
A mixture of 8.44 g of ethyl 4-hydroxy-5,7-dihydro-6-methoxycarbonylpyrrolo[3,4-b]pyridine-3-carboxylate and 50 ml of phosphorous oxychloride is refluxed for four hours, cooled to room temperature, and evaporated to dryness. The residue is taken up in methylene chloride, cooled by the addition of ice and basified with 10N sodium hydroxide. The layers are separated, and the aqueous phase is re-extracted with methylene chloride. The combined organic extract is dried, filtered, and evaporated to dryness to give ethyl 4-chloro-5,7-dihydro-6-methoxycarbonylpyrrolo[3,4-b]pyridine-3-carboxylate

reactant | ethyl 4-hydroxy-5,7-dihydro-6-methoxycarbonylpyrrolo[3,4-b]pyridine-3-carboxylate | 8.44 g | OC1=C2C(=NC=C1C(=O)OCC)CN(C2)C(=O)OC | C12H14N2O5
reactant | phosphorous oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-5,7-dihydro-6-methoxycarbonylpyrrolo[3,4-b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)CN(C2)C(=O)OC | C12H13ClN2O4
